US06878713B2
Cyclopropylamine (14.25 g, 250 mmol) was added to the stirred solution of 1-carbethoxy-3-ethyl-4-piperidone (10 g, 50 mmol) in methanol (100 ml) and stirring was continued for 12 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (3.9 g, 62 mmol) was added to it. Cooling was removed after 10 min. and stirring was continued for 12 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to afford crude 1-carbethoxy-4-cyclopropylamino-3-ethyl piperidine. The obtained crude 1-carbethoxy-4-cyclopropylamino-3-ethylpiperidine was suspended in 7 M NaOH solution (30 ml), stirred at 130° C. for 160 hr, cooled and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to afford 4-cyclopropylamino-3-ethyl-piperidine. Yield 5.7 g (67%), C10H20N2, m/z 169, (M+1).

reactant | Cyclopropylamine | 250 mmol, 14.25 g | C1(CC1)N | C3H7N
reactant | 1-carbethoxy-3-ethyl-4-piperidone | 50 mmol, 10 g | C(=O)(OCC)N1CC(C(CC1)=O)CC | C10H17NO3
reactant | sodium cyanoborohydride | 62 mmol, 3.9 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-carbethoxy-4-cyclopropylamino-3-ethyl piperidine | C(=O)(OCC)N1CC(C(CC1)NC1CC1)CC | C13H24N2O2
